US04328234
A mixture of triphenylphosphine (7.87 g, 0.03 mol) and 6,6-dimethylbicyclo[3.1.1]hept-2-ene-2-methanol (3.04 g, 0.02 mol) in dry carbon tetrachloride (14.0 ml) was stirred and heated at 60° for 4.0 h. After cooling, the reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to afford a semi crystalline mass. This residue was triturated with n-pentane (30 ml), and the mixture was filtered. The filtrate was concentrated under reduced pressure, and the resulting oil was distilled, to afford 2-chloromethyl-6,6-dimethylbicyclo[3.1.1]hept-2-ene as a colourless oil, b.p. 32°-33°/0.2 mm Hg.

reactant | triphenylphosphine | 0.03 mol, 7.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 6,6-dimethylbicyclo[3.1.1]hept-2-ene-2-methanol | 0.02 mol, 3.04 g | CC1(C2CC=C(C1C2)CO)C | C10H16O
reactant | carbon tetrachloride | 14.0 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-chloromethyl-6,6-dimethylbicyclo[3.1.1]hept-2-ene | ClCC=1C2C(C(CC1)C2)(C)C | C10H15Cl
